US08058269B2
Preparation of rac-{[6-Chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-isopropyl-amino}-acetic acid
rac-{[6-Chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-isopropyl-amino}-acetic acid ethyl ester (4.5 g, 10.4 mmol) was dissolved in a mixture of MeOH and KOH aqueous solution. This mixed solution was refluxed overnight and then the solution was concentrated. The PH of water layer was adjusted to 5-6 and then the water layer was extracted with dichloromethane. The organic layer was dried, concentrated and purified by chromatography to obtain 3.2 g solid rac-{[6-Chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-isopropyl-amino}-acetic acid.

reactant | rac-{[6-Chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-isopropyl-amino}-acetic acid ethyl ester | 10.4 mmol, 4.5 g | C(C)OC(CN(C(C)C)C1(C(NC2=CC(=CC=C12)Cl)=O)CC1=CC(=CC=C1)Cl)=O | C22H24Cl2N2O3
solvent | MeOH | CO | CH4O
solvent | KOH | [OH-].[K+]
product | rac-{[6-Chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-isopropyl-amino}-acetic acid | 3.2 g | ClC1=CC=C2C(C(NC2=C1)=O)(CC1=CC(=CC=C1)Cl)N(C(C)C)CC(=O)O | C20H20Cl2N2O3
